US06509328B1
{2′-Fluoro-3-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester
Prepared from (3-amino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G37) and 6-(3-imidazol-1-yl-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one (Example J10) according to the general procedure K. Obtained as a brown solid (352 mg).

reactant | (3-amino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)N)=O | C17H19FN2O2
reactant | 6-(3-imidazol-1-yl-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one | N1(C=NC=C1)C=1C=C(C=CC1)C1=CC(OC(O1)(C)C)=O | C15H14N2O3
product | {2′-Fluoro-3-[3-(3-imidazol-1-yl-phenyl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester | 352 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=CC=C1)F)NC(CC(=O)C1=CC(=CC=C1)N1C=NC=C1)=O)=O | C29H27FN4O4
